US07919498B2
A solution of (5-chloro-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol (2.180 g, 6.455 mmol) in 22 mL of CHCl3 was treated with thionyl chloride (2.348 mL, 32.27 mmol) dropwise, and the reaction mixture was stirred at room temperature. After 1.5 hr, the mixture was concentrated under reduced pressure and co-evaporated three times with CH2Cl2 to give 5-chloro-3-(chloromethyl)-2-(2-(trifluoromethyl)phenyl)quinoline hydrochloride as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.86 (1 H, d, J=0.6 Hz), 7.99-8.05 (1 H, m), 7.94 (1 H, dd, J=7.4, 1.0 Hz), 7.88-7.92 (1 H, m), 7.81-7.87 (2 H, m), 7.74-7.81 (1H, m), 7.61-7.66 (1 H, m), 4.77 (2 H, d, J=79.0 Hz); LC-MS (ESI) m/z 356.0 and 358.0 [M+H]+ (Exact Mass of neutral form: 355.014). The yellow solid was carried on crude without purification for the next step.

reactant | (5-chloro-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol | 6.455 mmol, 2.180 g | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)CO | C17H11ClF3NO
reactant | thionyl chloride | 32.27 mmol, 2.348 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 22 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-3-(chloromethyl)-2-(2-(trifluoromethyl)phenyl)quinoline hydrochloride | Cl.ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)CCl | InChI=1S/C17H10Cl2F3N.ClH/c18-9-10-8-12-14(19)6-3-7-15(12)23-16(10)11-4-1-2-5-13(11)17(20,21)22;/h1-8H,9H2;1H
